US04318912
A mixture of benzyl 1-azabicyclo[3.2.0]heptane-3,7-dione-2-carboxylate (26 mg) and 2-azidoethyl trifluoromethyl sulfonate (26 mg) in anhydrous acetene (0.5 ml) containing powdered potassium carbonate (28 mg) is stirred at 25° C. in a capped flask for 2 hrs. The mixture is diluted with anhydrous ether (5 ml) and filtered. The filtrate is washed with water (2 ml) and brine, dried with MgSO4, filtered, and evaporated in vacuo. The residue is purified by plc on a silica gel GF plate to afford benzyl 3-(2-azidoethyloxy)-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate.

reactant | benzyl 1-azabicyclo[3.2.0]heptane-3,7-dione-2-carboxylate | 26 mg | N12C(C(CC2CC1=O)=O)C(=O)OCC1=CC=CC=C1 | C14H13NO4
reactant | 2-azidoethyl trifluoromethyl sulfonate | 26 mg | FC(F)(F)S(=O)(=O)OCCN=[N+]=[N-] | C3H4F3N3O3S
reactant | potassium carbonate | 28 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetene | 0.5 ml | C=C | C2H4
solvent | ether | 5 ml | CCOCC | C4H10O
product | benzyl 3-(2-azidoethyloxy)-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | N(=[N+]=[N-])CCOC1=C(N2C(CC2C1)=O)C(=O)OCC1=CC=CC=C1 | C16H16N4O4
